US08008298B2
A solution of (4-hydroxy-1-methyl-cyclohexyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone (19 mg, 0.045 mmol), triphenyl phosphine (23 mg, 0.088 mmol), and formic acid (0.003 ml, 0.087 mmol), in THF (0.4 ml), was treated with diethyl azodicarboxylate (0.01 ml, 0.092 mmol). After stirring at room temperature for 2 days, the reaction mixture was purified by preparative thin layer chromatography using 70% EtOAc in Hexanes as eluant providing 12 mg (59%) of formic acid 4-methyl-4-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-cyclohexyl ester as a white solid. M+H=454.

reactant | (4-hydroxy-1-methyl-cyclohexyl)-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | 0.045 mmol, 19 mg | OC1CCC(CC1)(C)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C23H27N3O5
reactant | triphenyl phosphine | 0.088 mmol, 23 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | formic acid | 0.087 mmol, 0.003 ml | C(=O)O | CH2O2
reactant | diethyl azodicarboxylate | 0.092 mmol, 0.01 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 0.4 ml | C1CCOC1 | C4H8O
product | formic acid 4-methyl-4-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-cyclohexyl ester | 12 mg, 59% | CC1(CCC(CC1)OC=O)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C24H27N3O6
